US04485238
Cyano((6-phenoxy-2-pyridinyl)methyl)-2,2-dimethyl-3-cyclopropanecarboxaldehyde
To a 250 ml round bottom flask was added 6.0 g (26.7 mmol) of cyano(6-phenoxy-2-pyridinyl)methanol, 3.8 g (26.7 mmol) of 3-formyl-2,2-dimethylcyclopropane carboxylic acid and 60 ml of pyridine. The mixture was stirred to assure homogeneity and 0.28 g (1.45 mmol) of p-toluene sulfonic acid was added. Stirring was maintained for 15 minutes and then 6.30 g (30.4 mmol) of dicyclohexyl carbodiimide, dissolved in a minimum amount of pyridine, was added. The reaction mixture was stirred at room temperature for 24 hours. At the completion of this time, the reaction mixture was filtered and then the solvent was removed by evaporation under reduced pressure. The residue was taken up in diethyl ether and extracted three times with equal volumes of 2 normal hydrochloric acid and water, respectively. The mixture was dried over magnesium sulfate, filtered and the solvent removed by evaporation under reduced pressure. The desired cyano((6-phenoxy-2-pyridinyl)methyl)-2,2-dimethyl-3-cyclopropane carboxaldehyde product was recovered by distillation at 140° C. and 0.1 torr in a yield of 3.0 grams.

reactant | cyano(6-phenoxy-2-pyridinyl)methanol | 26.7 mmol, 6.0 g | C(#N)C(O)C1=NC(=CC=C1)OC1=CC=CC=C1 | C13H10N2O2
reactant | 3-formyl-2,2-dimethylcyclopropane carboxylic acid | 26.7 mmol, 3.8 g | C(=O)C1C(C1C(=O)O)(C)C | C7H10O3
reactant | p-toluene sulfonic acid | 1.45 mmol, 0.28 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | dicyclohexyl carbodiimide | 30.4 mmol, 6.30 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | Cyano((6-phenoxy-2-pyridinyl)methyl)-2,2-dimethyl-3-cyclopropanecarboxaldehyde | C(#N)C1(C(C1C=O)(C)C)CC1=NC(=CC=C1)OC1=CC=CC=C1 | C19H18N2O2
